US04489075
A solution of 4-vinylpyridine (52.5 g) in methanol (250 cm3) was added dropwise over 2 hours to a stirred solution of 1,2-diaminoethane in methanol (500 cm3) and water (500 cm3) under reflux in the presence of an excess of concentrated hydrochloric acid (pH1). After a further 1.5 hours the mixture was concentrated in vacuo and basified to pH9 with 4M sodium hydroxide solution. The solution was extracted with chloroform (4×150 cm3) and the dried (MgSO4) extracts were evaporated in vacuo to give an oil. Distillation gave N-[2-(4-pyridyl)ethyl]-1,2-diaminoethane as a colourless oil, b.p. 119°-122°/0.09 mm (27.0 g).

reactant | 4-vinylpyridine | 52.5 g | C(=C)C1=CC=NC=C1 | C7H7N
reactant | 1,2-diaminoethane | NCCN | C2H8N2
reactant | hydrochloric acid | pH1 | Cl | ClH
solvent | methanol | 250 cm3 | CO | CH4O
solvent | methanol | 500 cm3 | CO | CH4O
solvent | water | 500 cm3 | O | H2O
product | N-[2-(4-pyridyl)ethyl]-1,2-diaminoethane | N1=CC=C(C=C1)CCNCCN | C9H15N3
